US08202868B2
2-tert-Butyl-4-{4-[3-(4-methyl-4H-[1,2,4]triazol-3-ylsulfanyl)-propyl]-piperazin-1-yl}-6-cyclopropyl-pyrimidine acetate
0.7 g of 2-tert-Butyl-4-[4-(3-chloro-propyl)-piperazin-1-yl]-6-cyclopropyl-pyrimidine (1.45 mmol) and 0.55 g of 4-methyl-4H-[1,2,4]triazole-3-thiol (2.08 mmol) were dissolved in 10 ml of dimethylformamide. After addition of 0.104 g of lithium hydroxide (4.36 mmol) and 0.109 g of sodium iodide (0.73 mmol), the reaction mixture was stirred at 70° C. for 3 h. After cooling, the solvent was evaporated and the residue partitioned between dichloromethane and half-saturated sodium chloride solution. The organic layer was dried over magnesium sulfate, filtered, and the solvent was evaporated. The residue was purified via preparative HPLC on a C18-Symmetry column (Waters) with water/methanol (0.1% acetic acid). Fractions containing the product were combined and lyophilised to yield 0.075 g of the product.

reactant | 2-tert-Butyl-4-[4-(3-chloro-propyl)-piperazin-1-yl]-6-cyclopropyl-pyrimidine | 1.45 mmol, 0.7 g | C(C)(C)(C)C1=NC(=CC(=N1)N1CCN(CC1)CCCCl)C1CC1 | C18H29ClN4
reactant | 4-methyl-4H-[1,2,4]triazole-3-thiol | 2.08 mmol, 0.55 g | CN1C(=NN=C1)S | C3H5N3S
reactant | lithium hydroxide | 4.36 mmol, 0.104 g | [OH-].[Li+]
reactant | sodium iodide | 0.73 mmol, 0.109 g | [I-].[Na+]
reactant | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 2-tert-Butyl-4-{4-[3-(4-methyl-4H-[1,2,4]triazol-3-ylsulfanyl)-propyl]-piperazin-1-yl}-6-cyclopropyl-pyrimidine acetate | 0.075 g | C(C)(=O)O.C(C)(C)(C)C1=NC(=CC(=N1)N1CCN(CC1)CCCSC1=NN=CN1C)C1CC1 | InChI=1S/C21H33N7S.C2H4O2/c1-21(2,3)19-23-17(16-6-7-16)14-18(24-19)28-11-9-27(10-12-28)8-5-13-29-20-25-22-15-26(20)4;1-2(3)4/h14-16H,5-13H2,1-4H3;1H3,(H,3,4)
